US08202858B2
1-(4-{4-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoyl)-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic Acid Tert-butyl Ester
WSCD (58 mg, 0.30 mmol) and DMAP (18 mg, 0.15 mmol) were added to a solution of 4-{4-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoic acid from Example E43 (55 mg, 0.15 mmol) and 1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester (73 mg, 0.30 mmol) in dichloromethane (3 ml) and DIEA (0.052 ml, 0.30 mmol). The mixture was heated at reflux for 5 days, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to yield the title compound (25 mg, 28%).

reactant | 4-{4-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoic acid | CC(CCN1CCN(CC1)C(CCCC1=C(C=C(C(=O)O)C=C1)C)=O)(C)C | C22H34N2O3
reactant | 1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic acid tert-butyl ester | 0.30 mmol, 73 mg | C(C)(C)(C)OC(=O)N1CCNC2=C(C1)C=CC=C2 | C14H20N2O2
reactant | DIEA | 0.30 mmol, 0.052 ml | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 0.15 mmol, 18 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-(4-{4-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoyl)-1,2,3,5-tetrahydro-benzo[e][1,4]diazepine-4-carboxylic Acid Tert-butyl Ester | 25 mg, 28% | C(C)(C)(C)OC(=O)N1CCN(C2=C(C1)C=CC=C2)C(C2=CC(=C(C=C2)CCCC(=O)N2CCN(CC2)CCC(C)(C)C)C)=O | C36H52N4O4
